US07148226B2
3-(5-Chloro-1-isopropyl-1H-benzoimidazol-2-ylsulfanyl)-6-(3-cyclohexyl-propyl)-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example C(4), where 3-Chloro-6-(3-cyclohexyl-propyl)-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one (described in Step 2 of example C(30) was substituted in place of 3-Chloro-6-(2-cyclohex-1-enyl-ethyl)-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one and 5-Chloro-1-isopropyl-2-mercapto benzimidazole was substituted in place of 5-Pyridin-4-yl-4H-[1,2,4]triazole-3-thiol of that example.

reactant | 3-Chloro-6-(3-cyclohexyl-propyl)-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one | ClC=1C(OC(CC1O)(C1CCCC1)CCCC1CCCCC1)=O | C19H29ClO3
reactant | 3-Chloro-6-(2-cyclohex-1-enyl-ethyl)-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one | ClC=1C(OC(CC1O)(C1CCCC1)CCC1=CCCCC1)=O | C18H25ClO3
reactant | 5-Chloro-1-isopropyl-2-mercapto benzimidazole | ClC1=CC2=C(N(C(=N2)S)C(C)C)C=C1 | C10H11ClN2S
reactant | 5-Pyridin-4-yl-4H-[1,2,4]triazole-3-thiol | N1=CC=C(C=C1)C=1NC(=NN1)S | C7H6N4S
product | 3-(5-Chloro-1-isopropyl-1H-benzoimidazol-2-ylsulfanyl)-6-(3-cyclohexyl-propyl)-6-cyclopentyl-4-hydroxy-5,6-dihydro-pyran-2-one | ClC1=CC2=C(N(C(=N2)SC=2C(OC(CC2O)(C2CCCC2)CCCC2CCCCC2)=O)C(C)C)C=C1 | C29H39ClN2O3S
